* C:\moba trade\combined_simulation.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VBAT 0 PWL(0 11.1 10m 11.1 10.1m 9 12m 9 12.1m 11.1)
R_FUSE N006 VBAT 0.01
M§Q2 N006 0 N005 N005 PMOS_SIM
R1 N005 VINRUSH 6
M§Q1 VP_PRE_TVS P001 VINRUSH VINRUSH PMOS_SIM
R2 0 P001 100k
D§TVS1 0 VP_PRE_TVS SMBJ15A
S_BMS VP_BMS VP_PRE_TVS VCTRL 0 SW_IDEAL
Vctrl VCTRL 0 DC 1
C1 VP_BMS 0 470µ ic=0
C2 VP_BMS 0 220µ ic=0
C3 VP_BMS 0 100n ic=0
R_NTC VP_BMS VNTC 10k
R_DIV VNTC 0 10k
S_BYPASS VINRUSH N005 VBYPASS 0 SW_IDEAL
V_BYPASS VBYPASS 0 PWL(0 0 9.9m 0 10m 5)
C7 VP_BMS 0 100µ
X§U2 N001 VP_BMS N002 0 NC_01 N007 NC_02 LT1765
C5 N002 N001 100n
L2 N002 VOUT_5V 4.7µ
R_top_5V VOUT_5V N007 63.4k
R_bot_5V N007 0 20k
C4 VOUT_5V 0 220µ
R_LOAD_5V VOUT_5V 0 4.7
X§U3 N003 VP_BMS N004 0 NC_03 N008 NC_04 LT1765
C9 N004 N003 100n
L3 N004 VOUT_3V3 2.2µ
R_top_3V3 VOUT_3V3 N008 52.3k
R_bot_3V3 N008 0 30.1k
C8 VOUT_3V3 0 220µ
R_LOAD_3V3 VOUT_3V3 0 33
.model D D
.lib C:\Users\masou\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\masou\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1u 15m 0 10n
.meas tran V_OUT_SS avg V(VP_BMS) from 12m to 15m
.meas tran I_INRUSH max I(R1)
.model PMOS_SIM PMOS(Level=1 Vto=-2.5 Kp=10 Lambda=0.01 Rd=0.02 Rs=0.02 Is=1e-12)
.model SMBJ15A D(BV=16.7 IBV=1m Rs=0.1 Is=1e-14 N=1)
.model SW_IDEAL SW(Ron=0.01 Roff=1Meg Vt=0.5 Vh=0.1)
.meas tran V_VBAT find V(VBAT) at 14.9m
.meas tran V_VINRUSH find V(VINRUSH) at 14.9m
.meas tran V_VP_PRE_TVS find V(VP_PRE_TVS) at 14.9m
.meas tran V_VP_BMS find V(VP_BMS) at 14.9m
.meas tran V_VNTC find V(VNTC) at 14.9m
.meas tran E_R1 integ 6*I(R1)*I(R1)
.meas tran P_R1_SS avg 6*I(R1)*I(R1) from 12m to 15m
.meas tran V_N001 find V(N001) at 14.9m
.meas tran V_N002 find V(N002) at 14.9m
.meas tran V_DROP find V(VBAT)-V(VP_BMS) at 14.9m
.meas tran V_OUT_PP pp V(VP_BMS) from 12m to 15m
.model NMOS_SIM NMOS(Level=1 Vto=1.5 Kp=10 Lambda=0.01 Rd=0.01 Rs=0.01)
.meas tran VOUT_5V_SS avg V(VOUT_5V) from 12m to 15m
.meas tran VOUT_3V3_SS avg V(VOUT_3V3) from 12m to 15m
.meas tran RIPPLE_5V pp V(VOUT_5V) from 12m to 15m
.meas tran RIPPLE_3V3 pp V(VOUT_3V3) from 12m to 15m
.meas tran VOUT_5V_DIP_SS avg V(VOUT_5V) from 10.5m to 11.5m
.meas tran VOUT_3V3_DIP_SS avg V(VOUT_3V3) from 10.5m to 11.5m
.meas tran RIPPLE_5V_DIP pp V(VOUT_5V) from 10.5m to 11.5m
.meas tran RIPPLE_3V3_DIP pp V(VOUT_3V3) from 10.5m to 11.5m
.lib LT1765.sub
.backanno
.end
